US07446118B2
3-(1-Methyl-1H-indol-6-yl)-3-phenyl-acrylic acid ethyl ester CXLIII (78% yield) was prepared from 6-bromo-1-methyl-1H-indole using the procedure described above for preparation of 3-(3-cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester LVIII (Example 14).

reactant | 6-bromo-1-methyl-1H-indole | BrC1=CC=C2C=CN(C2=C1)C | C9H8BrN
reactant | 3-(3-cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C1=C2C(=CNC2=CC=C1)C#N)=O | C20H16N2O2
product | 3-(1-Methyl-1H-indol-6-yl)-3-phenyl-acrylic acid ethyl ester | 78% yield | C(C)OC(C=C(C1=CC=CC=C1)C1=CC=C2C=CN(C2=C1)C)=O | C20H19NO2
